US09302992B2
Ethyl iodide (3.9 g, 25.0 mmol) or 2-bromopropane (2.4 g, 19.2 mmol) was added to a stirred solution of 2-methylquinaldine (3.0 g, 18.8 mmol) and K2CO3 (6.5 g 47 mmol; 5.2 g, 37.6 mmol) in 30 ml DMF at 60° C. for 14 h. The reaction mixture was quenched by H2O (200 ml) and extracted with EtOAc (50 ml×2). The organic layer was concentrated by evaporation in vacuum. The residue was purified by flash column chromatography with Hex/EA (6:1) and recrystallized with Hexane/EA to give 8-ethoxy-2-methylquinoline as intermediate (2.75 g, 78%) in solid but liquid form for 8-isopropopxy-2-methylquinoline (2.92 g, 77%). LHMDS (2.2 equiv.) was treated with a stirred solution of different intermediates in THF solution at 0° C. for 1 h. Corresponding Br(CH2)n−1OH (1.1-1.2 equiv.) was added to a reaction mixture and recover to RT for further 12 to 30 h. The solvent was removed under a reduced pressure. The brown oily residue was purified by flash column chromatography with Hex/EA or DCM/BA and recrystallized by Hexane/EA to afford compound D and E.

reactant | Ethyl iodide | 25.0 mmol, 3.9 g | C(C)I | C2H5I
reactant | 2-bromopropane | 19.2 mmol, 2.4 g | BrC(C)C | C3H7Br
reactant | 2-methylquinaldine | 18.8 mmol, 3.0 g | CC1(NC2=CC=CC=C2C=C1)C | C11H13N
reactant | K2CO3 | 47 mmol, 6.5 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | 8-ethoxy-2-methylquinoline | C(C)OC=1C=CC=C2C=CC(=NC12)C | C12H13NO
